US07402680B2
1-(2-Chloro-benzyl)-3-(4-chloro-phenyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine
The title compound (149.9 mg) was prepared from 0.50 g of 4-oxo-piperidine-1-carboxylic acid tert-butyl ester, 304 μL of 2-chlorobenzylamine, and 0.46 g of (2-nitro-vinyl)-4-chlorobenzene, replacing SiO2 with crushed 4 Å molecular sieves. MS (ESI): exact mass calculated for C20H18Cl2N2, 356.08; found, m/z 357.1 [M+H]+. 1H NMR (500 MHz, CD3OD): 7.58-7.56 (m, 1H), 7.47-7.45 (m, 1H), 7.37-7.26 (m, 5H), 7.10 (s, 1H), 6.85-6.82 (m, 1H), 5.25 (s, 2H), 4.38 (s, 2H), 3.53 (t, J=6.3 Hz, 2H), 2.88 (t, J=6.3 Hz, 2H).

reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 0.50 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | (2-nitro-vinyl)-4-chlorobenzene | 0.46 g | [N+](=O)([O-])C=CC1=CC=C(C=C1)Cl | C8H6ClNO2
reactant | 2-chlorobenzylamine | 304 μL | ClC1=C(CN)C=CC=C1 | C7H8ClN
product | 1-(2-Chloro-benzyl)-3-(4-chloro-phenyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine | 149.9 mg | ClC1=C(CN2C=C(C=3CNCCC32)C3=CC=C(C=C3)Cl)C=CC=C1 | C20H18Cl2N2
